US07456218B2
methyl 3-[4-[(4′-chloro-2′-methylbiphenyl-3-yl)methoxy]phenyl]propanoate
A mixture of methyl 3-[4-[(3-bromobenzyl)oxy]phenyl]propanoate (0.5 g, 1.43 mmol), 4-chloro-2-methylphenylboronic acid (0.30 g, 1.72 mmol), tetrakis(triphenylphosphine)palladium(0) (0.083 g, 0.072 mmol), sodium carbonate (0.46 g, 4.29 mmol), water (5 mL), ethanol (5 mL) and toluene (25 mL) was stirred under an argon atmosphere at 90° C. for 16 hrs. The reaction mixture was cooled, diluted with ethyl acetate, washed with water and saturated brine, dried and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-4/1) to give the title compound (0.50 g, yield 88%) as a colorless oil.

reactant | methyl 3-[4-[(3-bromobenzyl)oxy]phenyl]propanoate | 1.43 mmol, 0.5 g | BrC=1C=C(COC2=CC=C(C=C2)CCC(=O)OC)C=CC1 | C17H17BrO3
reactant | 4-chloro-2-methylphenylboronic acid | 1.72 mmol, 0.30 g | ClC1=CC(=C(C=C1)B(O)O)C | C7H8BClO2
reactant | sodium carbonate | 4.29 mmol, 0.46 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 5 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.072 mmol, 0.083 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | methyl 3-[4-[(4′-chloro-2′-methylbiphenyl-3-yl)methoxy]phenyl]propanoate | 0.50 g, yield 88% | ClC1=CC(=C(C=C1)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC)C | C24H23ClO3
